US07294622B2
a. Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(3-methyl-2-thienyl)acrylate (94a)
A stirred solution of N-(benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester (5.01 g, 15.1 mmol) and 3-methylthiophene-2-carbaldehyde (7.5:1 mixture with 4-methylthiophene-2-carbaldehyde, 2.48 g, 19.6 mmol) in dry dichloromethane (100 mL), was cooled to 0° C. and treated dropwise with DBU (2.76 g, 18.1 mmol). The mixture was warmed to ambient temperature and stirred overnight. The solution was concentrated, taken up in ethyl acetate (150 mL) and washed with 5% hydrochloric acid (2×75 mL). The organic extract was washed with saturated aqueous sodium bicarbonate (2×75 mL), water (75 mL), dried (magnesium sulfate), filtered and evaporated. The residue was purified by flash chromatography (20-40% ethyl acetate/hexanes gradient) to afford the title compound (4.07 g, 81%) as an orange oil. The product is a mixture of 3- and 4-methylthiophene isomers (6.8:1). 1H NMR major isomer: (300 MHz, d6-DMSO) δ2.33 (s, 3H), 3.72, (s, 3H), 5.13 (bs, 2H), 7.01 (d, 1H, J=5.3 Hz), 7.18-7.52 (m, 5H), 7.60-7.85 (m, 2H), 8.83 (s, 1H). MS APCI, m/z=354(M+Na). LC/MS: 2.43 min.

reactant | N-(benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester | 15.1 mmol, 5.01 g | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | 3-methylthiophene-2-carbaldehyde | 19.6 mmol, 2.48 g | CC1=C(SC=C1)C=O | C6H6OS
reactant | DBU | 18.1 mmol, 2.76 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(3-methyl-2-thienyl)acrylate | 4.07 g, 81% | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/C=1SC=CC1C | C17H17NO4S
